US05962470
5-{4-[2-(Indol-3-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 5.0 g of 2-(indol-3-yl)-ethanol, 14.4 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 7.73 ml of tributylphosphine, 7.83 g of 1,1'-(azodicarbonyl)dipiperidine and 150 ml of anhydrous benzene were used, to give 3.03 g of the title compound, melting at 81.0-82.5° C.

reactant | 2-(indol-3-yl)-ethanol | 5.0 g | N1C=C(C2=CC=CC=C12)CCO | C10H11NO
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 14.4 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 7.73 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 7.83 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-[2-(Indol-3-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 3.03 g | N1C=C(C2=CC=CC=C12)CCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C39H32N2O3S
